US05925658
(4R)-N-[(1S)-1-Methyl-2-nitroxyethyl]-2-oxothiazolidin-4-yl-carboxamide (Exemplary Compound No. 1-1)
In 60 ml of dry tetrahydrofuran were suspended 2.06 g of (4R)-2-oxothiazolidine-4-carboxylic acid and 2.00 g of (1S)-1-methyl-2-nitroxyethylamine hydrochloride, 4.5 ml of triethylamine and 3.00 ml of diphenylphosphoryl azide were added thereto with stirring under ice-cooling, and the mixture was stirred at room temperature for 5 hours. Then, the solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography employing cyclohexane-ethyl acetate (1:4) as an eluent to obtain 3.00 g of colorless crystals. The crystals were recrystallized from ethyl acetate to obtain 0.964 g of the desired compound as colorless needle crystals.

reactant | (4R)-2-oxothiazolidine-4-carboxylic acid | 2.06 g | O=C1SC[C@H](N1)C(=O)O | C4H5NO3S
reactant | (1S)-1-methyl-2-nitroxyethylamine hydrochloride | 2.00 g | Cl.C[C@@H](CO[N+](=O)[O-])N
reactant | triethylamine | 4.5 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 3.00 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | (4R)-N-[(1S)-1-Methyl-2-nitroxyethyl]-2-oxothiazolidin-4-yl-carboxamide | 3.00 g | C[C@@H](CO[N+](=O)[O-])NC(=O)[C@H]1NC(SC1)=O | C7H11N3O5S
